US04666925
A solution of 6-chloro-3-isopropyl-1H-indene (6.45 g) in anhydrous tetrahydrofuran (15 ml) was added to a solution of borane:tetrahydrofuran complex (84.3 ml of 1.0M solution) at 0° C. under nitrogen atmosphere. The temperature of the reaction solution was kept below 5° C. during the addition. After the addition, the solution was further stirred at 0° C. for 0.5 hr and at room temperature for 2 hr. The solution was cooled to 0° C. and water (100 ml) was added, followed by 6N NaOH solution (100 ml) and hydrogen peroxide (100 ml, 30% aqueous solution). The mixture was stirred for one hour, then potassium carbonate (100 g) was added, ad the whole mixture was extracted with diethyl ether (3×150 ml). The combined ether extracts was washed with water, dried (MgSO4) and condensed to give an oil. This oil was purified by flash chromatography to give trans-5-chloro-1-isopropyl-2-indanol (6.67 g).

reactant | 6-chloro-3-isopropyl-1H-indene | 6.45 g | ClC1=CC=C2C(=CCC2=C1)C(C)C | C12H13Cl
reactant | borane | B | BH3
reactant | NaOH | 6N, 100 ml | [OH-].[Na+]
reactant | hydrogen peroxide | 100 ml | OO | H2O2
reactant | potassium carbonate | 100 g | C([O-])([O-])=O.[K+].[K+]
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | water | 100 ml | O | H2O
product | trans-5-chloro-1-isopropyl-2-indanol | 6.67 g | ClC=1C=C2C[C@H]([C@@H](C2=CC1)C(C)C)O | C12H15ClO
